US08791130B2
A mixture of 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine (80 mg, 0.38 mmol), 2-methoxy-4-(1H-1,2,4-triazol-1-yl)aniline (72 mg, 0.38 mmol) and p-toluene sulphonic acid (72 mg, 0.38 mmol) in dioxane (2 mL) was heated at 100° C. for 1 h. The mixture was cooled and filtered. The solid was partitioned between dichloromethane (10 mL) and saturated aqueous NaHCO3 (10 mL) and the product was extracted into dichloromethane (3×10 mL). The combined organics were passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification of the residue via silica gel column chromatography (0-100% ethyl acetate/isohexane) afforded a residue that was triturated with methanol/diethyl ether yielding N2-(2-methoxy-4-(1H-1,2,4-triazol-1-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine as a white solid (34.5 mg, 25%). LCMS (10 cm_ESCI_Formic_MeCN): [MH+]=366 at 3.13 min. 1H NMR (400 MHz, DMSO): δ 9.29 (s, 1H); 8.33 (d, J=8.7, 1H); 8.24-8.15 (m, 3H); 7.53 (d, J=2.4, 1H); 7.45 (dd, J=8.7, 2.4, 1H); 7.23 (d, J=5.2, 1H); 3.97 (s, 3H); 2.92 (d, J=4.4, 3H).

reactant | 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine | 0.38 mmol, 80 mg | ClC1=NC=C(C(=N1)NC)C(F)(F)F | C6H5ClF3N3
reactant | 2-methoxy-4-(1H-1,2,4-triazol-1-yl)aniline | 0.38 mmol, 72 mg | COC1=C(N)C=CC(=C1)N1N=CN=C1 | C9H10N4O
reactant | p-toluene sulphonic acid | 0.38 mmol, 72 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N2-(2-methoxy-4-(1H-1,2,4-triazol-1-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 34.5 mg, 25% | COC1=C(C=CC(=C1)N1N=CN=C1)NC1=NC=C(C(=N1)NC)C(F)(F)F | C15H14F3N7O
